* D:\transistorComputer\CMOS\Lab_6_DFF.asc
XX1 N002 VDD N001 gate_not_param
XX2 N003 VDD out gate_not_param
M1 N002 CLK A A myNMOS W=myNW L=myNL
M2 N002 !CLK A A myPMOS W=myPW L=myPL
M3 N003 !CLK N001 N001 myNMOS W=myNW L=myNL
M4 N003 CLK N001 N001 myPMOS W=myPW L=myPL

* block symbol definitions
.subckt gate_not_param A VDD !A
M1 !A A 0 0 myNMOS W=myNW L=myNL
M2 !A A VDD VDD myPMOS W=myPW L=myPL
.inc Mod_W2017N.mod
.param myPW=2u*sqrt(Speed)
.param myPL=100u/sqrt(Speed)
.param myNW=.6u*sqrt(Speed)
.param myNL=100u/sqrt(Speed)
.param Speed=1
.ends gate_not_param

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\john\Documents\LTspiceXVII\lib\cmp\standard.mos
.inc Test_inputLab6.txt
.tran 0 30u 0
.inc Mod_W2017N.mod
.param myPW=2u*sqrt(Speed)
.param myPL=100u/sqrt(Speed)
.param myNW=.6u*sqrt(Speed)
.param myNL=100u/sqrt(Speed)
.param Speed=1
.backanno
.end
